US08754089B2
A mixture of 2-amino-6-methylpyridine (10.00 g, 92.47 mmol), ethyl 4-chloro-acetoacetate (16.24 mL, 120.2 mmol), and polyphosphoric acid (50.00 g) was stirred at 125° C. After 5.5 h, the mixture was removed from the heat. To the cooled mixture was added ice-water (200 mL) and neutralized with 2 N NaOH (400 mL) to pH 6-7. The resulting precipitate was collected by filtration, washed with water (˜400 mL), and dried to give 2-(chloromethyl)-6-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one as a dark brown solid: 1H NMR (400 MHz, DMSO-d6) δ ppm 7.68 (1 H, dd, J=9.0, 7.0 Hz), 7.40 (1 H, dd, J=9.0, 0.8 Hz), 6.93 (1 H, d, J=6.7 Hz), 6.36 (1 H, s), 4.58 (2 H, s), 2.93 (3 H, s); Mass Spectrum (ESI) m/e=208.9 (M+1).

reactant | 2-amino-6-methylpyridine | 92.47 mmol, 10.00 g | NC1=NC(=CC=C1)C | C6H8N2
reactant | ethyl 4-chloro-acetoacetate | 120.2 mmol, 16.24 mL | ClCC(CC(=O)OCC)=O | C6H9ClO3
product | 2-(chloromethyl)-6-methyl-4H-pyrido-[1,2-a]pyrimidin-4-one | ClCC=1N=C2N(C(C1)=O)C(=CC=C2)C | C10H9ClN2O
